US07348328B2
The mixture of cis and trans 4-(3-cyanophenyl)-1-hydroxycyclohexane (1.8 g, 9 mmole) was dissolved in 100 ml methylene chloride and Dess-Martin reagent(4.2 g, 10 mmole) was added. The mixture was stirred at room temperature for five hours. The reaction solution was washed with water (3×100 mL) and dried over sodium sulfate. The product was purified by column chromatography using hexane/ethyl acetate (85/15) as the eluent to afford 4-(3-cyanophenyl)-cyclohexane-1-one (1,1 g, 63%).

reactant | trans 4-(3-cyanophenyl)-1-hydroxycyclohexane | 9 mmole, 1.8 g | C(#N)C=1C=C(C=CC1)[C@@H]1CC[C@H](CC1)O | C13H15NO
reactant | Dess-Martin reagent | 10 mmole, 4.2 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(3-cyanophenyl)-cyclohexane-1-one | 1,1 g, 63% | C(#N)C=1C=C(C=CC1)C1CCC(CC1)=O | C13H13NO
